US08530461B2
2-Bromo-6-(2,2-difluoro-cyclopropylmethoxy)-pyridine
To 307 mg (2.84 mmol) (2,2-difluorocyclopropyl)methanol in 1,4-dioxane (10 mL) is added 69 mg (2.84 mmol) sodium hydride and 500 mg (2.84 mmol) 2-bromo-6-fluoropyridine. The mixture is stirred for 2 h at 90° C. Water and DMF are added and the mixture is filtered and concentrated in vacuo. The residue is purified by HPLC (C18 RP Sunfire, acetonitrile/water (+0.1% TFA)) to yield the desired product.

reactant | (2,2-difluorocyclopropyl)methanol | 2.84 mmol, 307 mg | FC1(C(C1)CO)F | C4H6F2O
reactant | sodium hydride | 2.84 mmol, 69 mg | [H-].[Na+]
reactant | 2-bromo-6-fluoropyridine | 2.84 mmol, 500 mg | BrC1=NC(=CC=C1)F | C5H3BrFN
reactant | Water | O | H2O
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-Bromo-6-(2,2-difluoro-cyclopropylmethoxy)-pyridine | BrC1=NC(=CC=C1)OCC1C(C1)(F)F | C9H8BrF2NO
